US05538940
Preparation of methyl (E)-β-methoxy-2-bromomethylcinnamate (Compound No. 1.4 in Table 1).
200 g (0.97 mol) of methyl (E)-β-methoxy-2-methylcinnamate and 190 g (1.07 mol) of N-bromosuccinimide which has been washed with methanol and dried, in 2 l of dry tetrachloromethane, are irradiated with a 300 watt UV lamp for 75 min, during which the solution begins to reflux.

reactant | methyl (E)-β-methoxy-2-methylcinnamate | 0.97 mol, 200 g | CO/C(=C/C(=O)OC)/C1=C(C=CC=C1)C | C12H14O3
reactant | N-bromosuccinimide | 1.07 mol, 190 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | CO | CH4O
product | methyl (E)-β-methoxy-2-bromomethylcinnamate | CO/C(=C/C(=O)OC)/C1=C(C=CC=C1)CBr | C12H13BrO3
